US06320050B1
A solution of diisopropylamine (7.7 mL, 54.88 mmol) in dry tetrahydrofuran (23 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (10 mL) was cooled to −78° C. under nitrogen and then treated with a 2.5 M solution of n-butyllithium in hexanes (22.0 mL, 54.88 mmol). The resulting reaction mixture was stirred at −78° C. for 30 min and then treated dropwise with a solution of 4-bromophenylacetic acid (5.62 g, 26.13 mmol) in dry tetrahydrofuran (23 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (10 mL). The reaction mixture turned dark in color and was allowed to stir at −78° C. for 1 h, at which time, a solution of iodomethylcyclopentane (5.76 g, 27.44 mmol) in a small amount of dry tetrahydrofuran was added dropwise. The reaction mixture was allowed to warm to 25° C. where it was stirred for 24 h. The reaction mixture was quenched with water and then concentrated in vacuo to remove tetrahydrofuran. The aqueous residue was acidified using a 10% aqueous hydrochloric acid solution. The resulting aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) afforded 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid (3.88 g, 50%) as a light yellow solid: mp 91-93° C.; EI-HRMS m/e calcd for C14H17BrO2 (Me) 296.0412, found 296.0417.

reactant | diisopropylamine | 54.88 mmol, 7.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-bromophenylacetic acid | 26.13 mmol, 5.62 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | iodomethylcyclopentane | 27.44 mmol, 5.76 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran | 23 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 10 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 23 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 10 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid | 3.88 g, 50% | BrC1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C14H17BrO2
